US06288061B1
Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate (50.0 g) and 4-nitrobenzylamine (50.0 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-methylphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate (58.0 g), which was dissolved in ethyl alcohol (1200 ml). Thereto was added 1 M sodium hydroxide solution (300 ml) and the mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-methylphenyl)-2-(4-nitrophenyl)imidazole-4-carboxyic acid (37.6 g), melting point 212° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate | 50.0 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)C | C12H13NO4
reactant | 4-nitrobenzylamine | 50.0 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 5-(4-methylphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate | 58.0 g | CC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C19H17N3O4
